US07741327B2
In a round bottom flask was placed N-(benzyloxycarbonyl)-α-phosphonoglycine methyl ester (2.05 g, 6.18 mmol) in dichloromethane (5 mL) and cooled to 0° C. in an ice bath. To this mixture was then added slowly 1,8-diazabicyclo[5.4.0]undec-7-ene (801 μL, 5.36 mmol) and it was stirred at 0° C. for 20 min. The mixture was then treated with a solution of bicyclo[2.2.1]heptane-2-carbaldehyde (512 mg, 4.12 mmol) in dichloromethane (5 mL). After the addition was complete, the mixture was allowed to warm to 25° C. and stirred overnight. The mixture was concentrated in vacuo and then dissolved in ethyl acetate (50 mL) and washed with a saturated aqueous ammonium chloride solution (2×25 mL). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. Purification by AnaLogix IntelliFlash chromatography (25 g column, 15% ethyl acetate/hexanes to 34% ethyl acetate/hexanes) afforded 2-benzyloxycarbonylamino-3-bicyclo[2.2.1]hept-2-yl-acrylic acid methyl ester (491 mg, 36%) as a clear colorless oil.

reactant | N-(benzyloxycarbonyl)-α-phosphonoglycine methyl ester | 6.18 mmol, 2.05 g | COC(C(NC(=O)OCC1=CC=CC=C1)P(=O)(O)O)=O | C11H14NO7P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.36 mmol, 801 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | bicyclo[2.2.1]heptane-2-carbaldehyde | 4.12 mmol, 512 mg | C12C(CC(CC1)C2)C=O | C8H12O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-benzyloxycarbonylamino-3-bicyclo[2.2.1]hept-2-yl-acrylic acid methyl ester | 491 mg, 36% | COC(C(=CC1C2CCC(C1)C2)NC(=O)OCC2=CC=CC=C2)=O | C19H23NO4
